US09376436B2
Potassium tert-butoxide (2.22 mL, 3.78 mmol) was added dropwise to a solution of 3-(benzene-sulfonyl)-7-methyl-2-[6-methyl-4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]nonan-6-one (which may be prepared as described in Description 16) (1 g, 1.89 mmol) in THF (20 mL) at 00° C. under N2 and the reaction was stirred at 0° C. for 1 hour. Acetic acid (0.22 mL, 3.78 mmol) was added and the reaction was stirred for 5 minutes. The solid was filtered off and the solvent was evaporated to afford a crude oil. This was purified using a Biotage SP4, 25 g SNAP cartridge, eluting with 0 to 10% MeOH in EtOAc to afford 7-methyl-2-[6-methyl-4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one (641 mg, 1.4892 mmol, 78.9% yield) as a pale yellow oil;

reactant | Potassium tert-butoxide | 3.78 mmol, 2.22 mL | CC(C)([O-])C.[K+]
reactant | 3-(benzene-sulfonyl)-7-methyl-2-[6-methyl-4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]nonan-6-one | 1.89 mmol, 1 g | C1(=CC=CC=C1)S(=O)(=O)C1C(NC2(C1)C(N(CC2)C)=O)C2=NC(=CC(=C2)C2=CC=C(C=C2)C(F)(F)F)C | C27H26F3N3O3S
reactant | Acetic acid | 3.78 mmol, 0.22 mL | C(C)(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-methyl-2-[6-methyl-4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one | 1.4892 mmol, 641 mg, 78.9% yield | CN1C(C2(CCC(=N2)C2=NC(=CC(=C2)C2=CC=C(C=C2)C(F)(F)F)C)CC1)=O | C21H20F3N3O
